US08048897B2
(3) Synthesis of 2-(4-Cyclopropylbenzyl)phenol
In a nitrogen stream, dimethyl sulfide (2.2 mL, 51.7 mmol) and a boron trifluoride-diethyl ether complex (1.1 mL, 8.8 mmol) were added to a solution of 1-benzyloxy-2-(4-cyclo-propylbenzyl)benzene (1.1 g, 3.5 mmol) in methylene chloride (24 mL) under cooling with ice, and the reaction mixture was stirred for 23 hours while gradually raising its temperature to room temperature. Water was added thereto under cooling with ice and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate: n-hexane (1:4)] to obtain the title compound (620.7 mg, 79%).

reactant | dimethyl sulfide | 51.7 mmol, 2.2 mL | CSC | C2H6S
reactant | 1-benzyloxy-2-(4-cyclo-propylbenzyl)benzene | 3.5 mmol, 1.1 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC1=CC=C(C=C1)C1CC1 | C23H22O
reactant | Water | O | H2O
solvent | methylene chloride | 24 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Cyclopropylbenzyl)phenol | 620.7 mg, 79% | C1(CC1)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C16H16O
